US05401734
7β-Amino-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4carboxylate dihydrochloride (181 mg) was suspended in tetrahydrofuran (9.1 ml). To the suspension was added N-(trimethylsilyl)acetamide (788 mg), and the mixture was stirred at 35° C. for 30 minutes and cooled to 5° C. To the resulting solution was added a solution of 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetic methanesulfonic anhydride (syn isomer) (169 mg) in tetrahydrofuran (0.5 ml). The mixture was warmed to 2° C. and stirred for 1.2 hours. The mixture was poured into ethyl acetate (200 ml) and the resulting precipitates were collected by filtration, washed with ethyl acetate and diisopropyl ether and dried in vacuo. The powder was suspended in water (40 ml) and adjusted to pH 1 with 1N hydrochloric acid. After the insoluble materials were removed by filtration, the filtrate was chromatographed on Diaion HP-20 (15 ml) and the elution was carried out with 15% aqueous isopropyl alcohol. The eluate was lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate (syn isomer) (120 mg).

reactant | 7β-Amino-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4carboxylate dihydrochloride | 181 mg | Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O
reactant | N-(trimethylsilyl)acetamide | 788 mg | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetic methanesulfonic anhydride | 169 mg | CS(=O)(=O)OC(C(=NOC(C)(C)C(=O)O)C1=NSC(=N1)N)=O | C9H12N4O7S2
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 9.1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-[N,N-dimethyl-N-{(5-hydroxy-4-oxo-1,4-dihydropyridin-2-yl)methyl}ammonio]methyl-3-cephem-4-carboxylate | 120 mg | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+](CC=2NC=C(C(C2)=O)O)(C)C)C(=O)[O-])C1=O)=NOC(C)(C)C(=O)O | C24H28N8O9S2
